US06121309
2-Cyano-7-methoxy-8-phenylnaphthalene
Under nitrogen atmosphere, 1.2 g of 2-cyano-7-methoxy-8-trifluoromethanesulfonyloxynaphthalene, 0.66 g of phenylboronic acid, 0.12 g of tetrakis triphenylphosphine palladium and 1.5 ml of triethyl-amine were suspended in 20 ml of anhydrous N,N-dimethylformamide. The resulting suspension was stirred under heating at 100° C. for 1.5 hours and cooled to room temperature by allowing to stand. A saturated aqueous solution of ammonium chloride was added to the resulting reaction mixture, followed by the extraction with ethyl acetate (50 ml×2). The organic layers were combined, washed with brine, died over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated, and the resulting crude product was purified by silica gel column chromatography to give 0.95 g of the title compound.

reactant | 2-cyano-7-methoxy-8-trifluoromethanesulfonyloxynaphthalene | 1.2 g | C(#N)C1=CC2=C(C(=CC=C2C=C1)OC)OS(=O)(=O)C(F)(F)F | C13H8F3NO4S
reactant | phenylboronic acid | 0.66 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethyl-amine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Cyano-7-methoxy-8-phenylnaphthalene | 0.95 g | C(#N)C1=CC2=C(C(=CC=C2C=C1)OC)C1=CC=CC=C1 | C18H13NO
